US07291616B2
[4-Chloro-6-(5-chloro-2-methyl-phenyl)-[1,3,5]triazin-2-yl]-(1H-indazol-5-yl)-amine
The reaction of 2,4-dichloro-6-(5-chloro-2-methyl-phenyl)-[1,3,5]triazine and 5-aminoindazole using the method described in Example 37 provided the title compound (7% yield). 1H NMR (DMSO-d6) 12.95 (s, 1H), 9.52 (br s, 1H), 8.25 (s, 1H), 7.94 (s, 1H), 7.75 (m, 1H), 7.52 (m, 2H), 7.35-7.45 (m, 3H), 7.30 (m, 1H), 7.12)br s, 2H), 2.50 (s, 3H).

reactant | 2,4-dichloro-6-(5-chloro-2-methyl-phenyl)-[1,3,5]triazine | ClC1=NC(=NC(=N1)Cl)C1=C(C=CC(=C1)Cl)C | C10H6Cl3N3
reactant | 5-aminoindazole | NC=1C=C2C=NNC2=CC1 | C7H7N3
product | [4-Chloro-6-(5-chloro-2-methyl-phenyl)-[1,3,5]triazin-2-yl]-(1H-indazol-5-yl)-amine | 7% yield | ClC1=NC(=NC(=N1)C1=C(C=CC(=C1)Cl)C)NC=1C=C2C=NNC2=CC1 | C17H12Cl2N6
